US07851634B2
34 6-Bromo-4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazine
The solution of 2.85 g of 6-bromo-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one in 50 ml of tetrahydrofuran is admixed with 48 ml of 1M borane-tetrahydrofuran complex and stirred at 65° C. over 1 hour. The reaction mixture is cooled to room temperature and then admixed cautiously with 100 ml of methanol. After 10 minutes, the mixture is concentrated to dryness and the title compound is obtained as a yellowish oil from the residue by means of flash chromatography (SiO2 60 F). Rf=0.31 (1:2 EtOAc-heptane). Rt=4.89 (gradient I).

reactant | 6-bromo-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one | 2.85 g | BrC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C12H14BrNO3
reactant | methanol | 100 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6-Bromo-4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazine | BrC=1C=CC2=C(N(CCO2)CCCOC)C1 | C12H16BrNO2
